US07329749B2
Salt formation by reaction of a solution of {4-[2-(4-fluorophenyl)ethyl]-piperazin-1-yl}quinolin-8-ylmethanone in 30 ml of acetone with 0.2 ml of ethanolic hydrochloric acid gives {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}quinolin-8-ylmethanone, hydrochloride, m.p. 219-220.5°.

reactant | {4-[2-(4-fluorophenyl)ethyl]-piperazin-1-yl}quinolin-8-ylmethanone | FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C=1C=CC=C2C=CC=NC12 | C22H22FN3O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}quinolin-8-ylmethanone, hydrochloride | Cl.FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C=1C=CC=C2C=CC=NC12 | InChI=1S/C22H22FN3O.ClH/c23-19-8-6-17(7-9-19)10-12-25-13-15-26(16-14-25)22(27)20-5-1-3-18-4-2-11-24-21(18)20;/h1-9,11H,10,12-16H2;1H
